US06034248
4-Fluoronitrobenzene (21 g) was reacted with 1H-1,2,3-triazole (12.4 g) in the same manner as in Reference Example 9. The resultant was cooled and poured into water. The precipitated crystals were collected by filtration and purified by silica gel chromatography (eluent:dichloromethane to dichloromethane/acetone=8/1). The first eluted fraction was recrystallized from dichloromethane-diisopropyl ether to give 2-(4-nitrophenyl)-2H-1,2,3-triazole (18.8 g) as pale yellow prisms.

reactant | 4-Fluoronitrobenzene | 21 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1H-1,2,3-triazole | 12.4 g | N1N=NC=C1 | C2H3N3
solvent | water | O | H2O
product | 2-(4-nitrophenyl)-2H-1,2,3-triazole | 18.8 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CC=N1 | C8H6N4O2
